US07618960B2
Synthesis of (S)-4-[(S)-1-(2,6-difluoropyridin-3-yl)ethyl]-2-hydroxy-6-methylmorpholin-3-one
A 1 M solution of lithium tri-sec-butylborohydride in THF (20 mL) was added dropwise to a solution of (S)-4-[(S)-1-(2,6-difluoropyridin-3-yl)ethyl]-6-methylmorpholine-2,3-dione (4.5 g) in THF at −50° C. or less, and the reaction solution was stirred for two hours. A 5 N sodium hydroxide solution (1.66 mL) and 30% aqueous hydrogen peroxide (6.78 mL) were added dropwise to the reaction solution at −10° C. or less, and the reaction solution was stirred for one hour. Sodium bisulfite (520 mg) was added to the reaction solution, which was then stirred for 30 minutes. Brine and 50% toluene-THF were added to the reaction solution, and the organic layer was separated. The aqueous layer was washed with 50% toluene-THF. The organic layers were combined and concentrated under reduced pressure. The residue was purified by column chromatography using a silica gel (heptane:ethyl acetate=1:1 to 0:100) to obtain 4.52 g of the title compound.

reactant | lithium tri-sec-butylborohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
reactant | (S)-4-[(S)-1-(2,6-difluoropyridin-3-yl)ethyl]-6-methylmorpholine-2,3-dione | 4.5 g | FC1=NC(=CC=C1[C@H](C)N1C(C(O[C@H](C1)C)=O)=O)F | C12H12F2N2O3
reactant | sodium hydroxide | 5 N, 1.66 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 6.78 mL | OO | H2O2
reactant | Sodium bisulfite | 520 mg | S([O-])(O)=O.[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
solvent | toluene THF | C1(=CC=CC=C1)C.C1CCOC1
product | (S)-4-[(S)-1-(2,6-difluoropyridin-3-yl)ethyl]-2-hydroxy-6-methylmorpholin-3-one | 4.52 g | FC1=NC(=CC=C1[C@H](C)N1C([C@H](OC(C1)C)O)=O)F | C12H14F2N2O3
